US07750003B2
tert-Butyl N-[(2-methylpropan-2-yl)oxycarbonyl]-N-(1,3-thiazol-2-yl)carbamate
A solution of 2-aminothiazole (5 g, 0.05 mol), (2-methylpropan-2-yl)oxycarbonyl tert-butyl carbonate (27.8 g, 0.15 mol) and DMAP (100 mg) in THF (100 mL) was stirred at reflux overnight. The mixture was allowed to cool and concentrated in vacuo. The residue was chromatographed on silica, eluting with 8% ethyl acetate in hexane, to give the desired material as a white solid (12 g).

reactant | 2-aminothiazole | 0.05 mol, 5 g | NC=1SC=CN1 | C3H4N2S
reactant | (2-methylpropan-2-yl)oxycarbonyl tert-butyl carbonate | 0.15 mol, 27.8 g | C(OC(=O)OC(C)(C)C)(OC(C)(C)C)=O | C10H18O5
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-Butyl N-[(2-methylpropan-2-yl)oxycarbonyl]-N-(1,3-thiazol-2-yl)carbamate | 12 g | CC(C)(C)OC(=O)N(C(OC(C)(C)C)=O)C=1SC=CN1 | C13H20N2O4S
